US05134134
With stirring, 14.4 g (100 mmol) of ethyl 5-oxopentanoate, 9.2 g (112.6 mmol) of dimethylammonium chloride and 10.8 ml (117 mmol) of 37% formaldehyde solution are heated to 100° C. The mixture is cooled and extracted with 3×30 ml of diethyl ether. The batch is cooled and the organic phases are combined, washed with a saturated solution of sodium chloride, dried over magnesium sulfate and evaporated to dryness, giving ethyl 4-formylpent-4-enoate as a colorless oil which can be further reacted without additional purification.

reactant | ethyl 5-oxopentanoate | 100 mmol, 14.4 g | O=CCCCC(=O)OCC | C7H12O3
reactant | dimethylammonium chloride | 112.6 mmol, 9.2 g | [Cl-].C[NH2+]C
reactant | formaldehyde | 117 mmol, 10.8 ml | C=O | CH2O
product | ethyl 4-formylpent-4-enoate | C(=O)C(CCC(=O)OCC)=C | C8H12O3
